US06924278B2
Tert-butylchlorodiphenylsilane (13.06 g) and imidazole (9.7 g) were added to a solution of 4-bromo-2-methylbenzyl alcohol (9.55 g) in N,N-dimethylfocmamide (80 ml) at 5° C. and the mixture was allowed to warm to room temperature, and stirred for 18 hours. The mixture was extracted with ethyl acetate and the extract was washed with water, dried over magnesium sulfate, and concentrated under reduced pressure to give 1-bromo-4-(tert-butyldiphenylsilyloxymethyl)-3-methylbenzene (20.5 g) as a colorless oil.

reactant | Tert-butylchlorodiphenylsilane | 13.06 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
reactant | imidazole | 9.7 g | N1C=NC=C1 | C3H4N2
reactant | 4-bromo-2-methylbenzyl alcohol | 9.55 g | BrC1=CC(=C(CO)C=C1)C | C8H9BrO
product | 1-bromo-4-(tert-butyldiphenylsilyloxymethyl)-3-methylbenzene | 20.5 g | BrC1=CC(=C(C=C1)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C | C24H27BrOSi
